resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.007083
R2 0 n2 0.996013
R3 0 n4 0.989346
R4 n1 n3 0.984084
C5 n1 n5 1.46e-06
R6 n2 n3 1.014341
R7 n2 n6 1.002263
R8 n3 n7 0.980497
R9 n4 n5 1.013328
R10 n4 n6 0.987743
R11 n5 n7 1.003532
R12 n6 n7 0.984145
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
